US04129576
8-methoxypsoralen
A reaction mixture of 218 g of 2,3-dihydroxanthotoxin of Part E, 281 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone, and 3 liters of toluene was stirred and heated at reflux for 20 hours. The mixture was cooled and poured into 10 liters of 10 percent sodium hydroxide solution containing 5 percent sodium dithionite. The solution was then extracted twice with about 2 liters of chloroform. The combined chloroform extracts were washed with water and dried over sodium sulphate and concentrated to dryness. There was obtained 150 g (70 percent yield), of crude 8-methoxypsoralen which on crystallization from benzene was obtained as white crystals melting at 138°-140° C.

reactant | 2,3-dihydroxanthotoxin | 218 g | COC1=C2C(=CC3=C1OCC3)C=CC(=O)O2 | C12H10O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 281 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium hydroxide | 10 liters | [OH-].[Na+]
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | toluene | 3 liters | C1(=CC=CC=C1)C | C7H8
product | 8-methoxypsoralen | 70 percent yield | COC1=C2C(C=CO2)=CC3=C1OC(=O)C=C3 | C12H8O4
